US06310056B1
Pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(3-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate
To a solution of 29.4 mg of sodium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(3-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate in 0.8 ml of dry DMF was added 0.017 ml of iodomethyl pivalate under the atmosphere of argon at −30° C., and the mixture was stirred for 4 hours during which the temperature was raised up to 10° C. The reaction mixture was diluted with 10 ml of ethyl acetate, separated, and the aqueous layer was extracted twice with ethyl acetate, while the organic layer was washed with 10 ml of semi-saturated aqueous saline. The combined organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to a volume of 1 ml. The residue thus obtained was purified by column chromatography on silica gel (chloroform:methanol=20:1) and on Sephadex LH-20 (dichloromethane:methanol=1:1) in this sequence to give 7.9 mg of the title compound.

reactant | sodium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(3-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 29.4 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=C(N3C(S2)=CN=C3)C)C(=O)[O-])C1=O.[Na+]
reactant | iodomethyl pivalate | 0.017 ml | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | Pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(3-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 7.9 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=C(N3C(S2)=CN=C3)C)C(=O)OCOC(C(C)(C)C)=O)C1=O | C22H27N3O6S
